US07435823B2
Step (a) Preparation of 6-(pyridin-4-yloxy)-1-naphthoic acid
To a solution of 6-hydroxy-1-napthoic acid (2 g, 10.6 mmol) in DMSO (5 mL), Cs2CO3 (14 g, 42.4 mmol) was added and stirred at RT 10 min. 4-Chloropyridine hydrochloride (1.9 g, 12.7 mmol) was added in one portion and the reaction mixture heated to 140° C. for 12 h. The reaction mixture was cooled to RT, diluted with water and made pH 5 using 6 N HCl, at which point a brown precipitate crashed out. The solid was filtered and rinsed with water and hexanes to yield the title compound.

reactant | 6-hydroxy-1-napthoic acid | 10.6 mmol, 2 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | Cs2CO3 | 42.4 mmol, 14 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-Chloropyridine hydrochloride | 12.7 mmol, 1.9 g | Cl.ClC1=CC=NC=C1
reactant | HCl | 6 N | Cl | ClH
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6-(pyridin-4-yloxy)-1-naphthoic acid | N1=CC=C(C=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C16H11NO3
